US07718647B2
a.) Furan-2-yl-oxo-acetic acid ethyl ester
Furan-2-yl-oxo-acetic acid (15 g, 107 mmol), dissolved in CHCl3 (420 ml), was treated with EtOH (9.6 ml, 165 mmol) and H2SO4 (1 ml) and heated to 63° C. for 12 hours. Next, the reaction mixture was transferred to a separatory funnel and washed with sat. NaHCO3 (100 ml). The organic layer was washed with brine (100 ml), dried (MgSO4) and concentrated providing 16.9 g (66%) of the above subtitle compound, which was carried forward without further purification.

reactant | Furan-2-yl-oxo-acetic acid | 107 mmol, 15 g | O1C(=CC=C1)C(C(=O)O)=O | C6H4O4
reactant | EtOH | 165 mmol, 9.6 ml | CCO | C2H6O
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
solvent | CHCl3 | 420 ml | C(Cl)(Cl)Cl | CHCl3
product | Furan-2-yl-oxo-acetic acid ethyl ester | 16.9 g, 66% | C(C)OC(C(=O)C=1OC=CC1)=O | C8H8O4
